US05236619
Then, 6.3 g of p-hydroxyacetophenone and 12.7 g of 2-fluorooctyl-p-toluenesulfonate were dissolved in 35 ml of butanol. To the solution, a solution of 3.1 g of potassium hydroxide in 40 ml of butanol was added dropwise, followed by heat-refluxing for 6 hours. After the reaction, the reaction mixture was poured into 200 ml of ice water and extracted with isopropyl ether. The organic layer was washed with water and dried with anhydrous magnesium sulfate, followed by distilling-off of the solvent to precipitate a crystal. The crystal was purified by silica gel column chromatography to obtain 4.7 g of p-(2-fluorooctyloxy)acetophenone.

reactant | p-hydroxyacetophenone | 6.3 g | OC1=CC=C(C=C1)C(C)=O | C8H8O2
reactant | 2-fluorooctyl-p-toluenesulfonate | 12.7 g | FC(COS(=O)(=O)C1=CC=C(C=C1)C)CCCCCC | C15H23FO3S
reactant | potassium hydroxide | 3.1 g | [OH-].[K+]
solvent | butanol | 35 ml | C(CCC)O | C4H10O
solvent | butanol | 40 ml | C(CCC)O | C4H10O
product | p-(2-fluorooctyloxy)acetophenone | 4.7 g | FC(COC1=CC=C(C=C1)C(C)=O)CCCCCC | C16H23FO2
